US04147794
2-(2-Acetylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole (6.30 g) was added to a stirred solution of sodium (0.57 g) in ethanol (63 ml) at room temperature. After 15 minutes methyl iodide (7.10 g) was added and the solution kept at room temperature for 31/2 hours. The solvent was removed in vacuo and the residue chromatographed on a silica column (315 g) using mixtures of methanol and chloroform, finally eluting with 5% methanolchloroform. The resultant product was crystallised from ethyl acetate to give 2-(2-acetyl-2-methylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole (4.57 g) m.p. 106°-8°.

reactant | 2-(2-Acetylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole | 6.30 g | C(C)(=O)NNC=1SC(=NN1)C1=C(C=CC=C1)C | C11H12N4OS
reactant | sodium | 0.57 g | [Na] | Na
reactant | methyl iodide | 7.10 g | CI | CH3I
solvent | ethanol | 63 ml | C(C)O | C2H6O
product | 2-(2-acetyl-2-methylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole | 4.57 g | C(C)(=O)N(NC=1SC(=NN1)C1=C(C=CC=C1)C)C | C12H14N4OS
